US07314888B1
In 50 ml of N,N-dimethylformamide are suspended 5.0 g of 3,4-dihydroxybenzaldehyde, 15.5 g of potassium carbonate and 14 ml of isopentyl iodide. The mixture is stirred at 60° C. for 2 hours. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to obtain 9.4 g of 3,4-diisopentyloxybenzaldehyde as a light yellow oily product.

reactant | 3,4-dihydroxybenzaldehyde | 5.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 15.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopentyl iodide | 14 ml | C(CC(C)C)I | C5H11I
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-diisopentyloxybenzaldehyde | 9.4 g | C(CC(C)C)OC=1C=C(C=O)C=CC1OCCC(C)C | C17H26O3
